US04906645
(R)-6-Amino-a-[[(1,1-dimethyl-3-(2-hydroxyphenyl)propyl)amino]methyl]-3-pyridinemethanol Dihydrochloride
A solution of 127 mg (0.37 mmol) of (R)-a-[[(1,1-dimethyl-3-(2-hydroxyphenyl)propyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol and 170 mg (0.75 mmol) of SnCl2 ·2H2O in 15 ml of methanol is heated at reflux for 20 hours. The reaction mixture is cooled in ice and H2S is bubbled through the solution. The precipitate is collected by filtration and the filtrate concentrated. The residue is chromatographed on silica gel to give the desired product.

reactant | (R)-a-[[(1,1-dimethyl-3-(2-hydroxyphenyl)propyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol | 0.37 mmol, 127 mg | CC(CCC1=C(C=CC=C1)O)(C)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C18H23N5O2
reactant | SnCl2 | 0.75 mmol, 170 mg | Cl[Sn]Cl
solvent | methanol | 15 ml | CO | CH4O
product | (R)-6-Amino-a-[[(1,1-dimethyl-3-(2-hydroxyphenyl)propyl)amino]methyl]-3-pyridinemethanol Dihydrochloride | Cl.Cl.NC1=CC=C(C=N1)[C@@H](O)CNC(CCC1=C(C=CC=C1)O)(C)C | InChI=1S/C18H25N3O2.2ClH/c1-18(2,10-9-13-5-3-4-6-15(13)22)21-12-16(23)14-7-8-17(19)20-11-14;;/h3-8,11,16,21-23H,9-10,12H2,1-2H3,(H2,19,20);2*1H/t16-;;/m0../s1
